### PR TITLE
feat(Wikipedia): balanced primes

### LINKED ISSUE #1783: Wikipedia: Balanced Primes
### What is the conjecture
There are infinitely many balanced primes, i.e., primes $p(n) = \frac{p(n-1) + p(n+1)}2$, with $p(k)$ the $k$-th prime. IOW, the middle of three consecutive primes in arithmetic progression.

* https://en.wikipedia.org/wiki/Balanced_prime
* https://oeis.org/A006562

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1783.

Note for the generalisation we have a slightly different (but equivalent for k=2) formulation, since the first one is prettier for the basic case k=2 in my opinion.

Also note, we do not need some hypothesis $n \geq k$ or something, since this doesnt change the set being infinite or not.

### CODE REVIEW

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 1]
```diff
@@ -0,0 +1,48 @@
...
+theorem balanced_primes :
+    answer(sorry) ↔ {n : ℕ | Prime ((Nat.nth Prime n + Nat.nth Prime (n + 2)) / 2)}.Infinite := by
+  sorry
+
+/--
+Let $p_k$ be the $k$-th prime number.
+Are there infinitely many $n$ such that $p_n = (∑ i = 1 ^ k, (p_{n - i} + p_{n + i})) / (2*k)$ is prime?
+-/
+@[category research open, AMS 11]
+theorem balanced_primes_order (k : ℕ) :
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]: Note: you'll need a positivity assumption on `k` for this to be true.
```suggestion
theorem balanced_primes_order (k : ℕ) :
```

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+  sorry
+
+/--
+Let $p_k$ be the $k$-th prime number.
+Are there infinitely many $n$ such that $p_n = (∑ i = 1 ^ k, (p_{n - i} + p_{n + i})) / (2*k)$ is prime?
+-/
+@[category research open, AMS 11]
+theorem balanced_primes_order {k : ℕ} (hk : 0 < k):
+    answer(sorry) ↔ {n : ℕ | Nat.nth Prime n = (∑ i ∈ Finset.range k,
+      (Nat.nth Prime (n - i) + Nat.nth Prime (n + i))) / (2 * k)}.Infinite := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]: (to avoid junk value weirdness - though this shouldn't change whether the statement is true or not, I think it's usually better to make the meaning of the formal statement match that of the informal statement. In particular it makes things easier to maintain!)
```suggestion
    answer(sorry) ↔ {n : ℕ | k ≤ n ∧ Nat.nth Prime n = (∑ i ∈ Finset.range k,
      (Nat.nth Prime (n - i) + Nat.nth Prime (n + i))) / (2 * k)}.Infinite := by
```

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/BalancedPrimes.lean]: I think the indexing in the sum might be off by 1 (in the informal version, the first term in the sum is `p_{n-1} + p_{n+1}` while in the formal version the first term seems to be `2p_n`)

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/BalancedPrimes.lean]: thanks, good catch

File: FormalConjectures/ErdosProblems/9999.lean
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/9999.lean:1]: Accident?

File: FormalConjectures/ErdosProblems/965.lean
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/965.lean:1]: Accident?

File: FormalConjectures/ErdosProblems/9999.lean
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/9999.lean:1]: sorry my bad

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 3]
```diff
@@ -0,0 +1,48 @@
...
+    answer(sorry) ↔ {n : ℕ | Prime ((Nat.nth Prime n + Nat.nth Prime (n + 2)) / 2)}.Infinite := by
+  sorry
+
+/--
+Let $p_k$ be the $k$-th prime number.
+Are there infinitely many $n$ such that $p_n = (∑ i = 1 ^ k, (p_{n - i} + p_{n + i})) / (2*k)$ is prime?
+-/
+@[category research open, AMS 11]
+theorem balanced_primes_order {k : ℕ} (hk : 0 < k):
+    answer(sorry) ↔ {n : ℕ | k ≤ n ∧ Nat.nth Prime n = (∑ i ∈ Finset.Ioo 0 k,
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]: I think the sum here should go up to `k`? (currently the indices are `1, ..., k-1`)
```suggestion
    answer(sorry) ↔ {n : ℕ | k ≤ n ∧ Nat.nth Prime n = (∑ i ∈ Finset.Ioc 0 k,
```

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/BalancedPrimes.lean]: true!

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 4]
```diff
@@ -0,0 +1,48 @@
...
+Are there infinitely many $n$ such that $(p_n + p_{n+2}) / 2$ is prime?
+-/
+@[category research open, AMS 11]
+theorem balanced_primes :
+    answer(sorry) ↔ {n : ℕ | Prime ((Nat.nth Prime n + Nat.nth Prime (n + 2)) / 2)}.Infinite := by
+  sorry
+
+/--
+Let $p_k$ be the $k$-th prime number.
+Are there infinitely many $n$ such that $p_n = (∑ i = 1 ^ k, (p_{n - i} + p_{n + i})) / (2*k)$ is prime?
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]: Can you properly latex this?

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 5]
```diff
@@ -0,0 +1,48 @@
...
+-/
+@[category research open, AMS 11]
+theorem balanced_primes_order {k : ℕ} (hk : 0 < k):
+    answer(sorry) ↔ {n : ℕ | k ≤ n ∧ Nat.nth Prime n = (∑ i ∈ Finset.Ioc 0 k,
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]: You need to move `k` to inside the `answer(sorry) ↔`

File: FormalConjectures/Wikipedia/BalancedPrimes.lean [hunk 6]
```diff
@@ -0,0 +1,48 @@
...
+      (Nat.nth Prime (n - i) + Nat.nth Prime (n + i))) / (2 * k)}.Infinite := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/BalancedPrimes.lean]:
```suggestion
    answer(sorry) ↔ {n : ℕ | k ≤ n ∧ 2 * k * Nat.nth Prime n = ∑ i ∈ .Ioc 0 k,
      ((n - i).nth Prime + (n + i).nth Prime)}.Infinite := by
```
